US07674741B2
2-(Cyclohexyl-methyl)-2-methoxymethyl-γ-butyrolactone
A solution of diisopropylamine (19.0 mL) in THF was treated dropwise with butyl lithium (82.5 mL of 1.6M solution in hexanes) at −10° C. Next the reaction mixture was cooled to −78° C. and treated dropwise with 2-(cyclohexyl-methyl)-γ-butyrolactone (18.0 mL) keeping the speed of the addition at such a rate that the temperature of the mixture remained below −60° C. After completion of the addition, the mixture was stirred for 4.5 h at −78° C., then warmed-up to −40° C. and treated dropwise at this temperature with chloromethyl methyl ether (10.8 mL). After that, the mixture was allowed to slowly warm-up to room temperature and stirred at this temperature for 60 h. The solvents were removed in vacuum and the residue was redissolved in dichloromethane, then washed with a saturated aqueous solution of ammonium chloride, dried over magnesium sulfate, filtered, concentrated on a rotary evaporator and finally distilled in vacuum to give 5.90 g (25%) of the title compound.

reactant | diisopropylamine | 19.0 mL | C(C)(C)NC(C)C | C6H15N
reactant | butyl lithium | 1.6M, 82.5 mL | C(CCC)[Li]
reactant | 2-(cyclohexyl-methyl)-γ-butyrolactone | 18.0 mL | C1(CCCCC1)CC1C(=O)OCC1 | C11H18O2
reactant | chloromethyl methyl ether | 10.8 mL | COCCl | C2H5ClO
solvent | THF | C1CCOC1 | C4H8O
product | 2-(Cyclohexyl-methyl)-2-methoxymethyl-γ-butyrolactone | 5.90 g, 25% | C1(CCCCC1)CC1(C(=O)OCC1)COC | C13H22O3
